US09226916B2
[(3S,4R)-4-(4-Chloro-phenyl)-1-(4,4-di fluoro-cyclohexane carbonyl)-pyrrolidin-3-yl]-methyl-carbamic acid 4-fluoro-phenyl ester
In analogy to the procedure described for the synthesis of example 44 (step c), the title compound [(3S,4R)-4-(4-chloro-phenyl)-1-(4,4-difluoro-cyclohexanecarbonyl)-pyrrolidin-3-yl]-methyl-carbamic acid 4-fluoro-phenyl ester was prepared from [(3S,4R)-4-(4-chloro-phenyl)-pyrrolidin-3-yl]-methyl-carbamic acid 4-fluoro-phenyl ester using 4,4-Difluoro-cyclohexanecarboxylic acid instead of 1-methylcyclopropane-1-carboxylic acid and was obtained as an off-white solid. MS m/e: 494.2 [M]+.

reactant | [(3S,4R)-4-(4-chloro-phenyl)-pyrrolidin-3-yl]-methyl-carbamic acid 4-fluoro-phenyl ester | FC1=CC=C(C=C1)OC(N(C)[C@@H]1CNC[C@H]1C1=CC=C(C=C1)Cl)=O | C18H18ClFN2O2
reactant | 4,4-Difluoro-cyclohexanecarboxylic acid | FC1(CCC(CC1)C(=O)O)F | C7H10F2O2
product | [(3S,4R)-4-(4-chloro-phenyl)-1-(4,4-difluoro-cyclohexanecarbonyl)-pyrrolidin-3-yl]-methyl-carbamic acid 4-fluoro-phenyl ester | FC1=CC=C(C=C1)OC(N(C)[C@@H]1CN(C[C@H]1C1=CC=C(C=C1)Cl)C(=O)C1CCC(CC1)(F)F)=O | C25H26ClF3N2O3
